US08026234B2
Compound 150B 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(4-(4-methylpiperazin-1-yl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was prepared in a manner analogous to compound 149 from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid and 4-(4-methylpiperazin-1-yl)-3-(trifluoromethyl)aniline with yield 46 mg (34%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43-1.72 (m, 6H) 1.99 (br. s., 2H) 2.23 (s, 3H) 2.47 (br.s., 4H) 2.85 (t, J=4.29 Hz, 4H) 3.99 (s, 3H) 4.07 (t, J=12 Hz, 2H) 4.80 (t, J=7.96 Hz, 1H) 7.46-7.73 (m, 3H) 7.97-8.10 (m, 2H) 8.14 (d, J=2.53 Hz, 1H) 8.29 (s, 1H) 8.38 (d, J=8.34 Hz, 1H) 10.31 (s, 1H). [M+H] calc'd for C33H37F5N8O3, 689. found 689.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 4-(4-methylpiperazin-1-yl)-3-(trifluoromethyl)aniline | CN1CCN(CC1)C1=C(C=C(N)C=C1)C(F)(F)F | C12H16F3N3
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(4-(4-methylpiperazin-1-yl)-3-(trifluoromethyl)phenyl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C)C(F)(F)F)C=C2)OC | C33H37F5N8O3
